US07589206B2
(a) 7-Chloro-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid cyclobutylmethyl-amide
Prepared in a similar manner to Example 19 (e) from 7-chloro-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid using cyclobutylmethylamine hydrochloride (46 mg) instead of tetrahydro-pyran-4-ylmethylamine to give the title compound (39 mg).

reactant | 7-chloro-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid | ClC1=NC=C(C2=C1NC=C2)C(=O)O | C8H5ClN2O2
reactant | cyclobutylmethylamine hydrochloride | 46 mg | Cl.C1(CCC1)CN
product | 7-Chloro-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid cyclobutylmethyl-amide | 39 mg | C1(CCC1)CNC(=O)C=1C2=C(C(=NC1)Cl)NC=C2 | C13H14ClN3O
